US08735436B2
Preparation of tert-butyl 2-((3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-yloxy)butanoate
An aqueous solution of sodium hydroxide (50% (w/w), 6 mL) was added portionwise to a mixture of (3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-ol (1.66 g, 6.37 mmol), tert-butyl-2-bromobutyrat (2.86 g, 12.8 mmol) and tetrabutylammonium bisulfate (0.65 g, 1.91 mmol) in toluene (12 ml). The reaction mixture was vigorously stirred under N2-atmosphere and warmed to 50° C. The reaction mixture was stirred at 50° C. for a total of 25 hrs. Additional tert-butyl-2-bromobutyrat (1.43 g, 6.41 mmol) and (1.42 g, 6.38 mmol) was added after 1½ hrs and 3 hrs respectively. The mixture was cooled to room temperature and added water (30 mL) and heptane (50 mL), the resulting two phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated under reduced pressure. Flash chromatography on silica gel (30 g) eluting with heptane-heptane/EtOAc (99:1) yielded 1.55 g of the title compound as a liquid. 1H NMR (300 MHz, CDCl3) δ 0.96 (t, 3H), 0.97 (t, 3H), 1.48 (s, 9H), 1.64-1.86 (m, 2H), 2.03-2.12 (m, 2H), 2.39 (dd, J=12.1, 6.7 Hz, 2H), 2.79-2.86 (m, 8H), 3.29-3.37 (m, 1H), 3.57-3.66 (m, 2H), 5.27-5.49 (m, 10H).

reactant | sodium hydroxide | 6 mL | [OH-].[Na+]
reactant | (3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-ol | 6.37 mmol, 1.66 g | C(C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)O | C18H28O
reactant | tert-butyl-2-bromobutyrat | 12.8 mmol, 2.86 g | C(C)(C)(C)OC(C(CC)Br)=O | C8H15BrO2
reactant | tert-butyl-2-bromobutyrat | 6.41 mmol, 1.43 g | C(C)(C)(C)OC(C(CC)Br)=O | C8H15BrO2
reactant | water | 30 mL | O | H2O
catalyst | tetrabutylammonium bisulfate | 1.91 mmol, 0.65 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 50 mL | CCCCCCC | C7H16
product | tert-butyl 2-((3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-yloxy)butanoate | 1.55 g | C(C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)CC | C26H42O3
